US05962458
A mixture of 2-(N-(3,6-dichloropyridazin-4-yl)-N-methylamino)ethanol (444 mg, 2 mmol) and 10% palladium-on-charcoal catalyst (150 mg) in ethanol (15 ml), methanol (5 ml) and aqueous ammonia (15 ml) was stirred under hydrogen at 3 atmospheres pressure for 4 hours. The catalyst was removed by filtration and the solvent removed from the filtrate by evaporation. The residue was dissolved in methylene chloride, the insoluble material was removed by filtration and the solvent was removed from the filtrate by evaporation. The residue was purified by column chromatography on neutral aluminum oxide eluting with methylene chloride/methanol (95/5 followed by 90/10). The purified product was triturated with petroleum ether, the solid product was collected by filtration and dried under vacuum to give 2-(N-methyl-N-(pyridazin-4-yl)amino)ethanol (275 mg, 91%).

reactant | 2-(N-(3,6-dichloropyridazin-4-yl)-N-methylamino)ethanol | 2 mmol, 444 mg | ClC=1N=NC(=CC1N(C)CCO)Cl | C7H9Cl2N3O
catalyst | palladium-on-charcoal | 150 mg | [Pd] | Pd
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | methanol | 5 ml | CO | CH4O
solvent | ammonia | 15 ml | N | H3N
product | 2-(N-methyl-N-(pyridazin-4-yl)amino)ethanol | 275 mg, 91% | CN(C1=CN=NC=C1)CCO | C7H11N3O
